US05939451
0.62 g (0.00175 mol) of N-[4-(6-chloro-2-pyrrolidin-1-yl-pyrimidin-4-ylsulfamoyl)-phenyl]-acetamide was dissolved in 20 ml of ethanol, treated with 1.36 g (0.0201 mol) of methylamine hydrochloride and 5.3 ml (0.038 mol) of triethylamine and stirred in an autoclave at 140° C. for 17 hours. The mixture was freed completely from solvent, the residue was partitioned in ethyl acetate/water and filtered off under suction. There was obtained 0.30 g (44%) of N-[4-(6-methylamino-2-pyrrolidin-1-yl-pyrimidin-4-ylsulfamoyl)-phenyl]-acetamide as beige crystals; m.p. 271-274° C.

reactant | N-[4-(6-chloro-2-pyrrolidin-1-yl-pyrimidin-4-ylsulfamoyl)-phenyl]-acetamide | 0.00175 mol, 0.62 g | ClC1=CC(=NC(=N1)N1CCCC1)NS(=O)(=O)C1=CC=C(C=C1)NC(C)=O | C16H18ClN5O3S
reactant | methylamine hydrochloride | 0.0201 mol, 1.36 g | Cl.CN
reactant | triethylamine | 0.038 mol, 5.3 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | N-[4-(6-methylamino-2-pyrrolidin-1-yl-pyrimidin-4-ylsulfamoyl)-phenyl]-acetamide | 0.30 g, 44% | CNC1=CC(=NC(=N1)N1CCCC1)NS(=O)(=O)C1=CC=C(C=C1)NC(C)=O | C17H22N6O3S
